US09227956B2
To a round-bottom flask charged with a stir bar was added Preparation 24, tert-butyl (3R)-3-{(3-methylpyridin-2-yl)[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoyl]amino}piperidine-1-carboxylate (1.53 g, 2.93 mmol) and Preparation 22, 5-(4-iodo-1-methyl-1H-pyrazol-5-yl)-2H-tetrazole (674 mg, 2.44 mmol). To this was added dioxane (12.2 mL) and aqueous NaOH (4.07 mL, 3M solution, 12.2 mmol). The reaction mixture was heated to 70° C. under nitrogen atmosphere for 30 min. To a microwave vial was added the Pd(OAc)2 (34.3 mg, 0.153 mmol) and Catacxium A (123 mg, 0.342 mmol). The atmosphere was exchanged for nitrogen, and toluene was added. The catalyst was stirred at room temperature for 15 min, until a bright yellow slurry formed. At this point, the catalyst was added to the reaction mixture, and the temperature was adjusted to 100° C. The reaction mixture was stirred for 3 h at 100° C. After complete consumption of the starting material, the reaction was concentrated under reduced pressure. H2O (10 mL) was added. The reaction mixture was extracted with MTBE (3×25 mL). The aq. phase was cooled to 0° C., and 1M HCl was added dropwise to form a precipitate which was collected via suction filtration and dried in vacuo to obtain tert-butyl (3R)-3-(4-(1-methyl-5-(2H-tetrazol-5-yl)-1H-pyrazol-4-yl)-N-(3-methylpyridin-2-yl)benzamido)piperidine-1-carboxylate (1.2 g, 90%).

reactant | tert-butyl (3R)-3-{(3-methylpyridin-2-yl)[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoyl]amino}piperidine-1-carboxylate | 2.93 mmol, 1.53 g | CC=1C(=NC=CC1)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C29H40BN3O5
reactant | 5-(4-iodo-1-methyl-1H-pyrazol-5-yl)-2H-tetrazole | 2.44 mmol, 674 mg | IC=1C=NN(C1C=1N=NNN1)C | C5H5IN6
reactant | NaOH | 12.2 mmol, 3M, 4.07 mL | [OH-].[Na+]
reactant | Catacxium A | 0.342 mmol, 123 mg | CCCCP(C12CC3CC(C1)CC(C3)C2)C45CC6CC(C4)CC(C6)C5 | C24H39P
catalyst | Pd(OAc)2 | 0.153 mmol, 34.3 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 12.2 mL | O1CCOCC1 | C4H8O2
product | tert-butyl (3R)-3-(4-(1-methyl-5-(2H-tetrazol-5-yl)-1H-pyrazol-4-yl)-N-(3-methylpyridin-2-yl)benzamido)piperidine-1-carboxylate | 1.2 g, 90% | CN1N=CC(=C1C=1N=NNN1)C1=CC=C(C(=O)N(C2=NC=CC=C2C)[C@H]2CN(CCC2)C(=O)OC(C)(C)C)C=C1 | C28H33N9O3
